### PR TITLE
Add results about `fDiv`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add `fDiv_of_zero_on_nonneg`, add statement and partial proof of `fDiv_of_eq_on_nonneg` (this would be useful to do a different and shorter proof of `fDiv_of_zero_on_nonneg`).
- Move `fDiv_add_const` and `fDiv_sub_const`.
- Separate `fDiv_linear` from the proof of `fDiv_add_linear'`.
- Generalize `fDiv_add_linear'` and `fDiv_add_linear` (remove the hypothesis `hc : 0 ≤ c`).
- Add `fDiv_nonneg_of_nonneg`.

Depends on #116.

### CODE REVIEW

File: TestingLowerBounds/FDiv/Basic.lean [hunk 1]
```diff
@@ -722,6 +750,14 @@ lemma fDiv_nonneg [IsProbabilityMeasure μ] [IsProbabilityMeasure ν]
   calc (0 : EReal) = f (μ Set.univ).toReal := by simp [hf_one]
   _ ≤ fDiv f μ ν := le_fDiv hf_cvx hf_cont
 
+lemma fDiv_nonneg_of_nonneg (hf : ∀ x, 0 ≤ f x) (hf_atTop : 0 ≤ derivAtTop f) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/Basic.lean]: The hypothesis on derivAtTop is a consequence of hf and can be removed.
Also, the more general result we want is `fDiv_mono`, stating that fDiv is monotone in f. I guess we also want `fDiv_mono_ae`.

File: TestingLowerBounds/FDiv/Basic.lean [hunk 2]
```diff
@@ -123,6 +123,25 @@ lemma fDiv_ne_bot_of_derivAtTop_nonneg (hf : 0 ≤ derivAtTop f) : fDiv f μ ν
 @[simp]
 lemma fDiv_zero (μ ν : Measure α) : fDiv (fun _ ↦ 0) μ ν = 0 := by simp [fDiv]
 
+lemma fDiv_of_eq_on_nonneg (μ ν : Measure α) (h : ∀ x ≥ 0, f x = g x) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/Basic.lean]: Name it `fDiv_congr`?
There could also be an almost everywhere version.

File: TestingLowerBounds/FDiv/Basic.lean (hunk 1 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/FDiv/Basic.lean]: Thanks, I have removed the hypothesis on `derivAtTop`.
Regarding `fDiv_mono` I wrote an attempted proof, but it relies on the monotonicity of `derivAtTop`, which is not true under the current definition; the underlying problem is that the `limsup` is not monotone over the reals, because `ℝ` is not a complete lattice. Maybe in the future we should change the definition of `derivAtTop`, putting the coercion to `EReal` inside the `limsup`, rather than outside of it, however for the moment I wrote some proofs with sorries, and comments documenting this.

**Comment by RemyDegenne** [comment]
This adds things to derivAtTop and uses those lemmas elsewhere, but derivAtTop will change completely with #120. 
Let's merge the refactor and then adapt this PR to use the new definition.

File: TestingLowerBounds/FDiv/Basic.lean [hunk 3]
```diff
@@ -126,6 +126,34 @@ lemma fDiv_ne_bot_of_derivAtTop_nonneg (hf : 0 ≤ derivAtTop f) : fDiv f μ ν
...
+  · exact EReal.coe_eq_coe_iff.mpr (integral_congr_ae h)
+
+lemma fDiv_congr (μ ν : Measure α) (h : ∀ x ≥ 0, f x = g x) :
+    fDiv f μ ν = fDiv g μ ν := by
+  have (x : α) : f ((∂μ/∂ν) x).toReal = g ((∂μ/∂ν) x).toReal := h _ ENNReal.toReal_nonneg
+  simp_rw [fDiv, this, derivAtTop_congr_nonneg h]
+  congr
+  simp_rw [this]
+
+-- TODO: finish the proof of `fDiv_of_eq_on_nonneg` and use it to shorten the proof of `fDiv_of_zero_on_nonneg`.
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/Basic.lean]:
```suggestion
```

File: TestingLowerBounds/FDiv/Basic.lean [hunk 4]
```diff
@@ -126,6 +126,34 @@ lemma fDiv_ne_bot_of_derivAtTop_nonneg (hf : 0 ≤ derivAtTop f) : fDiv f μ ν
...
+--the name feels a bit wrong, what could I write instead of `on_nonneg`?
+lemma fDiv_of_zero_on_nonneg (μ ν : Measure α) (hf : ∀ x ≥ 0, f x = 0) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/Basic.lean]:
```suggestion
lemma fDiv_eq_zero_of_forall_nonneg (μ ν : Measure α) (hf : ∀ x ≥ 0, f x = 0) :
```

File: TestingLowerBounds/FDiv/Basic.lean [hunk 5]
```diff
@@ -728,6 +765,29 @@ lemma fDiv_nonneg [IsProbabilityMeasure μ] [IsProbabilityMeasure ν]
...
+  split_ifs with hg_int
+  swap; · simp
+  gcongr
+  · exact EReal.coe_le_coe_iff.mpr <| integral_mono_ae hf_int hg_int <|
+      ae_of_ae_map (Measure.measurable_rnDeriv μ ν).ennreal_toReal.aemeasurable hfg
+  · exact EReal.coe_ennreal_nonneg _
+
+lemma fDiv_mono (hf_int : Integrable (fun x ↦ f ((∂μ/∂ν) x).toReal) ν)
+    (hfg : f ≤ g) (hfg' : derivAtTop f ≤ derivAtTop g) : fDiv f μ ν ≤ fDiv g μ ν :=
+  fDiv_mono' hf_int (eventually_of_forall hfg) hfg'
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/Basic.lean]: `derivAtTop_mono` is true for convex functions, which are the only functions for which fDiv really makes sense. The name `fDiv_mono` should hence be reserved for the lemma that assumes convex functions and does not need `hfg'`. Can you change the name of this one and add a TODO about that?

Also I think `hf_int` can be removed if both function are a.e. strongly measurable and convex, since then `g` would not be integrable either and the `fDiv` on the right would be infinite. Don't change anything now, but please write a comment about it.

**Review by RemyDegenne — APPROVED** [review]

File: TestingLowerBounds/FDiv/Basic.lean (hunk 5 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/FDiv/Basic.lean]: Okay, to remove the integrability condition I think we need to ask also for the finiteness of the measures, otherwise we have a counterexample with `f = -1` and `g = 0`.
